US07525717B2
N-Phenylbenzene-1,2-diamine
To a pressure reaction bottle was added 10 g 2-nitrodiphenylamine, 0.5 g 5% palladium on carbon and 100 ml 95% ethanol. The mixture was hydrogenated at 22 C and 40 psi hydrogen for 2 hours. Following filtration through celite and solvent removal, an oil was obtained that crystallized on standing.

reactant | 2-nitrodiphenylamine | 10 g | C1=CC=C(C=C1)NC2=CC=CC=C2[N+](=O)[O-] | C12H10N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-Phenylbenzene-1,2-diamine | C1(=CC=CC=C1)NC=1C(=CC=CC1)N | C12H12N2
